US05072007
100 ml stainless steel autoclave was charged with 2.2 g (20 mmol) of resorcin, 5.28 g (40 mmol) of acetone diethyl acetal, 9.2 g (200 mmol) of ethanol, 0.2 g (2 mmol) of conc. sulfuric acid and 40 ml of toluene, then sealed and allowed to react at 100° C. for 3 hours. After similar working up as in Example 45, 2.42 g (51.3%) of 2-ethoxy-7-hydroxy-2,4,4-trimethylchroman was obtained.

reactant | resorcin | 20 mmol, 2.2 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | acetone diethyl acetal | 40 mmol, 5.28 g | C(C)OC(C)(C)OCC | C7H16O2
reactant | ethanol | 200 mmol, 9.2 g | C(C)O | C2H6O
reactant | sulfuric acid | 2 mmol, 0.2 g | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxy-7-hydroxy-2,4,4-trimethylchroman | 2.42 g, 51.3% | C(C)OC1(OC2=CC(=CC=C2C(C1)(C)C)O)C | C14H20O3
